US05658908
A mixture of 3-bromobenzyl alcohol (15.0 g, 80 mmol), tert-butylchlorodiphenylsilane (22.9 mL, 88 mmol), imidazole (12.0 g, 176 mmol) and 75 mL of dimethylformamide was stirred at room temperature overnight. The reaction mixture was poured into cold water, extracted with diethyl ether, the extracts washed with water and brine, dried over sodium sulfate and evaporated. The resulting oil was purified by chromatography on silica gel with hexane to give 23.7 g (70%) of 3-bromobenzyl tert-butyldiphenylsilyl ether as a colorless oil.

reactant | 3-bromobenzyl alcohol | 80 mmol, 15.0 g | BrC=1C=C(CO)C=CC1 | C7H7BrO
reactant | tert-butylchlorodiphenylsilane | 88 mmol, 22.9 mL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 176 mmol, 12.0 g | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-bromobenzyl tert-butyldiphenylsilyl ether | 23.7 g, 70% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC(=CC=C1)Br | C23H25BrOSi
